US04405552
EXAMPLE 69: 4-CHLORO-γ-[1-(METHOXYIMINO)ETHYL]-β-METHYLBENZENEBUTANENITRILE
4-Chloro-γ-(1-oxoethyl)-β-methylbenzenebutanenitrile (4.4 grams) and methoxyamine.HCl (3.7 grams) in 80 ml of pyridine were stirred at ambient temperature. The mixture was then poured into ice containing sufficient concentrated HCl to neutralize the pyridine, stirred, and extracted with dichloromethane. The resulting dichloromethane solution was washed with water and a saturated solution of sodium chloride and was then dried over magnesium sulfate. Filtering and stripping resulted in a clear colorless gum which was shown by NMR and IR to be the desired product.

reactant | 4-Chloro-γ-(1-oxoethyl)-β-methylbenzenebutanenitrile | 4.4 grams | ClC1=CC=C(C=C1)C(C(CC#N)C)C(C)=O | C13H14ClNO
reactant | methoxyamine.HCl | 3.7 grams | CO[NH3+].[Cl-]
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 4-CHLORO-γ-[1-(METHOXYIMINO)ETHYL]-β-METHYLBENZENEBUTANENITRILE | ClC1=CC=C(C=C1)C(C(CC#N)C)C(C)=NOC | C14H17ClN2O
